US05750550
A mixture of 1.445 g (10 mmol) of 2-hydrazino-5-chloropyridine and ethyl trifluoroacetoacetate (1.5 ml; 10 mmol) in 5 ml of acetic acid was refluxed overnight with stirring under nitrogen and then cooled. The mixture was concentrated in vacuo, the residue was diluted with ethyl acetate, and the solid mixture was filtered. The filtrate was washed with saturated sodium bicarbonate solution, the aqueous layer was extracted with ethyl acetate, and the combined organic layer was dried over magnesium sulfate. The organic layer was concentrated in vacuo, the residue was purified by flash chromatography (ethyl acetate) and crystallized (from ethyl acetate/hexane followed by hexane) to afford 1.42 g of 1-(5-chloro-2-pyridyl)-3-trifluoromethyl-5-hydroxy-pyrazole as a white solid, m.p. 58°-59° C.

reactant | 2-hydrazino-5-chloropyridine | 10 mmol, 1.445 g | N(N)C1=NC=C(C=C1)Cl | C5H6ClN3
reactant | ethyl trifluoroacetoacetate | 10 mmol, 1.5 ml | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 1-(5-chloro-2-pyridyl)-3-trifluoromethyl-5-hydroxy-pyrazole | 1.42 g | ClC=1C=CC(=NC1)N1N=C(C=C1O)C(F)(F)F | C9H5ClF3N3O
